* D:\INGEÑERIA\Circuitos Electronicos II\simulaciones\Draft2.asc
V1 0 N002 -12
V3 N010 0 -12
R1 N007 N010 3300
R2 N007 0 10k
R3 N003 N002 100k
V4 N001 0 12
R4 N005 N012 3300
R5 N005 0 10k
R6 N005 0 1k
R7 N005 N001 100k
V5 0 N012 12
D1 N003 N007 D
Q1 N006 N008 N009 0 NPN
R8 N004 N008 100k
V2 N004 0 12
V6 N013 0 -12
R9 N011 N013 3300
R10 N011 0 10k
R11 0 N006 1k
R12 N009 N011 0.01
.model D D
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.op
.backanno
.end
