* D:\INGEÑERIA\Circuitos Electronicos II\simulaciones\ej6tp4 VCO ONDA CUADRADA.asc
XU1 0 N001 +VCC -VCC N003 OP747
XU2 N005 N003 +VCC -VCC N004 LTC6752
V1 +VCC 0 24
V2 0 -VCC 24
V3 N002 0 SINE(5 3 250)
R2 N001 N002 10K
R3 N001 N006 1K
Q1 N006 N007 N005 0 NPN
D1 N005 N007 D
R4 N004 N007 100K
R1 N005 0 10000
R5 N005 N008 3300
C1 N001 N003 10n
V4 N008 0 -12
.model D D
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran .003
.lib ADI.lib
.lib LTC7.lib
.backanno
.end
